US04973767
Crude 1-(4-chlorophenyl)-2-cyclopropylethanone (from the previous reaction) in dry dimethylformamide (150 ml) was added dropwise to a stirred suspension of hexane-washed sodium hydride (4.57 g of a 60% dispersion in oil, 114 mmol) in dry dimethylformamide (35 ml) under nitrogen. After 1 hour the mixture was cooled to -30° C. and iodomethane (16.2 g, 114 mmol) in dry dimethylformamide (35 ml) added very slowly. The mixture was then poured into water and the resultant mixture extracted with ether. The extracts were washed with brine, dried and evaporated in vacuo. Chromatography [SiO2, hexane-ethyl acetate (95:5)] gave 1-(4-chlorophenyl)-2-cyclopropylpropan-1-one (7.66 g, approximately 70% pure, approximately 28% based on 1-(4-chlorophenyl)-2-cyclopropylethanol).

reactant | 1-(4-chlorophenyl)-2-cyclopropylethanone | ClC1=CC=C(C=C1)C(CC1CC1)=O | C11H11ClO
reactant | hexane | CCCCCC | C6H14
reactant | iodomethane | 114 mmol, 16.2 g | IC | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 1-(4-chlorophenyl)-2-cyclopropylpropan-1-one | 7.66 g | ClC1=CC=C(C=C1)C(C(C)C1CC1)=O | C12H13ClO
